US07851473B2
(4) tert-Butyl 4-[4-(3-cyanophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate
A solution of 3-(2-bromo-1,3-thiazol-4-yl)benzonitrile (990 mg, 4.90 mmol), tert-butyl piperazine-1-carboxylate (1.37 g, 7.34 mmol) and potassium carbonate (677 mg, 4.90 mmol) in dimethylformamide (16 ml) was stirred at 120° C. for 6 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 920 mg (50.7%) of the desired product as a solid.

reactant | 3-(2-bromo-1,3-thiazol-4-yl)benzonitrile | 4.90 mmol, 990 mg | BrC=1SC=C(N1)C=1C=C(C#N)C=CC1 | C10H5BrN2S
reactant | tert-butyl piperazine-1-carboxylate | 7.34 mmol, 1.37 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 4.90 mmol, 677 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[4-(3-cyanophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 920 mg, 50.7% | C(#N)C=1C=C(C=CC1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H22N4O2S
